US07410976B2
5-{1′-[(1-Cyclopropyl-5-methoxyisoquinolin-7-yl)carbonyl]-4-oxospiro[chroman-2,4′-piperidin]-6-yl}nicotinic acid sodium salt
5-{1′-[(1-Cyclopropyl-5-methoxy-isoquinolin-7-yl)carbonyl]-4-oxospiro[chroman-2,4′-piperidin]-6-yl}nicotinic acid methyl ester (1.80 g, 3.11 mmol) was suspended in MeOH (18 mL) and THF (9 mL), and 1N NaOH (9.34 mL) was added thereto. After stirred at room temperature for 5 h, 1N HCl aq. (6.23 mL) was added to the reaction mixture and the solvents was removed in vacuo. The residue was purified by ODS column chromatography (H2O/MeOH=100/0 to 60/40) to obtain the intended compound as a colorless solid. 1H-NMR (400 MHz, DMSO-d6) δ: 8.92 (1H, d, J=1.7 Hz), 8.76 (1H, d, J=2.4 Hz), 8.36 (1H, d, J=5.6 Hz), 8.31-8.28 (1H, m), 8.08 (1H, s), 8.00-7.96 (2H, m), 7.74 (1H, d, J=5.6 Hz), 7.23 (1H, d, J=9.3 Hz), 7.19 (1H, s), 4.41-4.26 (1H, br m), 4.01 (3H, s), 3.60-3.46 (1H, br m), 3.39-3.27 (2H, br m), 2.97-2.87 (1H, m), 2.95 (2H, s), 2.19-2.02 (1H, br m), 2.02-1.72 (3H, m), 1.15-1.04 (4H, m). ESI-MS [M+Na]+=586.

reactant | 5-{1′-[(1-Cyclopropyl-5-methoxy-isoquinolin-7-yl)carbonyl]-4-oxospiro[chroman-2,4′-piperidin]-6-yl}nicotinic acid methyl ester | 3.11 mmol, 1.80 g | COC(C1=CN=CC(=C1)C=1C=C2C(CC3(CCN(CC3)C(=O)C3=CC(=C4C=CN=C(C4=C3)C3CC3)OC)OC2=CC1)=O)=O | C34H31N3O6
reactant | NaOH | 1N, 9.34 mL | [OH-].[Na+]
reactant | HCl | 1N, 6.23 mL | Cl | ClH
solvent | MeOH | 18 mL | CO | CH4O
solvent | THF | 9 mL | C1CCOC1 | C4H8O
product | 5-{1′-[(1-Cyclopropyl-5-methoxyisoquinolin-7-yl)carbonyl]-4-oxospiro[chroman-2,4′-piperidin]-6-yl}nicotinic acid sodium salt | [Na+].C1(CC1)C1=NC=CC2=C(C=C(C=C12)C(=O)N1CCC2(CC1)OC1=CC=C(C=C1C(C2)=O)C=2C=NC=C(C(=O)[O-])C2)OC | InChI=1S/C33H29N3O6.Na/c1-41-29-15-21(14-25-24(29)6-9-35-30(25)19-2-3-19)31(38)36-10-7-33(8-11-36)16-27(37)26-13-20(4-5-28(26)42-33)22-12-23(32(39)40)18-34-17-22;/h4-6,9,12-15,17-19H,2-3,7-8,10-11,16H2,1H3,(H,39,40);/q;+1/p-1
